US07432392B2
4-Dimethylaminopyridine (55 mg), 3-(2,2′-bisethylcarbamoyl-2-phenylethoxy)propionic acid (115 mg) and 4′-trifluoromethylbiphenyl-2-carboxylic acid (2-dimethylcarbamoyl-4-hydroxyphenyl)amide (161 mg) were dissolved in acetone (5 mL), and thereto was added WSC (86 mg). The mixture was stirred at room temperature for 3 hours and then concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane=4:1→1:0) to give 3-(2,2′-bisethylcarbamoyl-2-phenylethoxy)propionic acid 3-dimethylcarbamoyl-4-[(4′-trifluoromethylbiphenyl-2-carbonyl)amino]phenyl ester (150 mg).

reactant | 3-(2,2′-bisethylcarbamoyl-2-phenylethoxy)propionic acid | 115 mg | C(C)NC(=O)C(COCCC(=O)O)(C1=CC=CC=C1)C(NCC)=O | C17H24N2O5
reactant | 4′-trifluoromethylbiphenyl-2-carboxylic acid (2-dimethylcarbamoyl-4-hydroxyphenyl)amide | 161 mg | CN(C(=O)C1=C(C=CC(=C1)O)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C23H19F3N2O3
reactant | WSC | 86 mg | CCN=C=NCCCN(C)C | C8H17N3
catalyst | 4-Dimethylaminopyridine | 55 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 3-(2,2′-bisethylcarbamoyl-2-phenylethoxy)propionic acid 3-dimethylcarbamoyl-4-[(4′-trifluoromethylbiphenyl-2-carbonyl)amino]phenyl ester | 150 mg | CN(C(=O)C=1C=C(C=CC1NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)OC(CCOCC(C1=CC=CC=C1)(C(NCC)=O)C(NCC)=O)=O)C | C40H41F3N4O7
